US07521461B2
Methyl 2-{[4-(3-hydroxypropyl)phenoxy]methyl}benzoate (0.50 g, 1.66 mmol) and 4-(benzyloxy)phenol (0.33 g, 1.66 mmol) was added to a dry round bottomed flask fitted with a septum Dry toluene (10 ml) was added and N2 was flushed through the mixture for 5 minutes. (Tributylphosphoranylidene)acetonitrile (0.80 g, 3.33 mmol) was added dropwise and the reaction was performed in a single node microwave oven. After removing the solvent by evaporation the crude was purified by preparative HPLC (started with acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min)). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). Removing the solvent by evaporation gave 0.515 gram of methyl 2-[(4-{3-[4-(benzyloxy)phenoxy]-propyl}phenoxy)methyl]benzoate (yield 64.1%).

reactant | Methyl 2-{[4-(3-hydroxypropyl)phenoxy]methyl}benzoate | 1.66 mmol, 0.50 g | OCCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C18H20O4
reactant | 4-(benzyloxy)phenol | 1.66 mmol, 0.33 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | (Tributylphosphoranylidene)acetonitrile | 3.33 mmol, 0.80 g | C(CCC)P(CCCC)(CCCC)=CC#N | C14H28NP
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-[(4-{3-[4-(benzyloxy)phenoxy]-propyl}phenoxy)methyl]benzoate | 0.515 gram, yield 64.1% | C(C1=CC=CC=C1)OC1=CC=C(OCCCC2=CC=C(OCC3=C(C(=O)OC)C=CC=C3)C=C2)C=C1 | C31H30O5
